US04153633
A 500 ml flask was charged with 100.0 g of prenyl mesityl oxide (13% nonconjugated 79.7% conjugated isomer), 0.56 mole, 40.6 g ethylene diamine, and 0.5 g NaOH. This was then flushed thoroughly with nitrogen. The mixture was heated at between 95° and 105° C. and agitated for approximately four hours under a slight nitrogen pressure. Analysis by gas liquid chromatography indicated that 31.9% prenyl mesityl oxide remained unchanged after this time. Steam distillation of the pot mixture gave a true yield of 95.8% of methyl heptenone based on the prenyl mesityl oxide reacted, after the recovery of unreacted prenyl mesityl oxide.

reactant | prenyl mesityl oxide | 100.0 g | C(C=C(C)C)CC(=O)C=C(C)C | C11H18O
reactant | ethylene diamine | 0.56 mole, 40.6 g | C(CN)N | C2H8N2
reactant | NaOH | 0.5 g | [OH-].[Na+]
product | methyl heptenone | yield of 95.8% | CCC(C=CCCC)=O | C8H14O
